US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (46 mg) was reacted with 4-(4-iodophenyl)-4-methoxyoxepane (60 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxyoxepan-4-yl)phenyl]pent-4-enoic acid methyl ester (66 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 46 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | 4-(4-iodophenyl)-4-methoxyoxepane | 60 mg | IC1=CC=C(C=C1)C1(CCOCCC1)OC | C13H17IO2
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxyoxepan-4-yl)phenyl]pent-4-enoic acid methyl ester | 66 mg | COC(C(C\C=C\C1=CC=C(C=C1)C1(CCOCCC1)OC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H29Cl2NO5
